US04074049
A mixture of 17.0 grams (0.075 mole) of 2,5-dimercapto-1,3,4-thiadiazole dipotassium salt and 24.5 grams (0.150 mole) of 4-(3-chloropropyl)-morpholine in 170 ml of water was heated under reflux with stirring for two hours. The mixture was then cooled to between 28 and 30° C and extracted with benzene. The benzene extract was washed with a saturated sodium chloride solution and dried over anhydrous sodium carbonate. After removal of the drying agent by filtration, the solution was evaporated to dryness, leaving the 2,5-bis(3-(4-morpholinyl)propylthio)-1,3,4-thiadiazole as a pale yellow oil. The product was recrystallized from methylcyclohexane to give white crystals with a melting point of 65.5°-66° C.

reactant | 2,5-dimercapto-1,3,4-thiadiazole dipotassium salt | 0.075 mole, 17.0 grams | [K].[K].SC=1SC(=NN1)S
reactant | 4-(3-chloropropyl)-morpholine | 0.150 mole, 24.5 grams | ClCCCN1CCOCC1 | C7H14ClNO
solvent | water | 170 ml | O | H2O
product | 2,5-bis(3-(4-morpholinyl)propylthio)-1,3,4-thiadiazole | N1(CCOCC1)CCCSC=1SC(=NN1)SCCCN1CCOCC1 | C16H28N4O2S3
